US05614527
A suspension of 4.00 g of [(2,2-dimethyl-4-tetrahydrofuryl) methyl]methanesulfonate, 10.4 g of 1,2-diaminoethane and 2.87 g of potassium carbonate in 40 ml of acetonitrile was stirred at 80° C. for 3 hours. The mixture was cooled to room temperature, and water was then added thereto, followed by extraction with dichloromethane, The organic layer was dried over magnesium sulfate, anhydrous, and then concentrated under a reduced pressure to obtain 1.38 g of N-[(2,2-dimethyl-4-tetrahydrofuryl) methyl]-1,2-diaminoethane as a pale yellow oil.

reactant | [(2,2-dimethyl-4-tetrahydrofuryl) methyl]methanesulfonate | 4.00 g | CC1(OCC(C1)CCS(=O)(=O)[O-])C
reactant | 1,2-diaminoethane | 10.4 g | NCCN | C2H8N2
reactant | potassium carbonate | 2.87 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | N-[(2,2-dimethyl-4-tetrahydrofuryl) methyl]-1,2-diaminoethane | 1.38 g | CC1(OCC(C1)CNCCN)C | C9H20N2O
